### PR TITLE
[Merged by Bors] - feat(FieldTheory.JacobsonNoether) : add proof of the Jacobson-Noether theorem

### PR DESCRIPTION
**Pull request by faenuccio**
In this PR we provide a proof of the Jacobson-Noether theorem following [this blog](https://ysharifi.wordpress.com/2011/09/30/the-jacobson-noether-theorem/)

Co-authored by: Filippo A. E. Nuccio @faenuccio
Co-authored by: Wanyi He @Blackfeather007
Co-authored by: Huanyu Zheng @Yu-Misaka
Co-authored by: Yi Yuan @yuanyi-350
Co-authored by: Weichen Jiao @AlbertJ-314
Co-authored by: Sihan Wu @Old-Turtledove
Co-authored by: @FR-vdash-bot

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by acmepjz** [comment]
There is API for purely inseparable extension (unfortunately, only for commutative rings). Would you consider using it (after extend it to non-commutative case)?

**Comment by Yu-Misaka** [comment]
> There is API for purely inseparable extension (unfortunately, only for commutative rings). Would you consider using it (after extend it to non-commutative case)?

I think indeed we've tried using `[isPurelyInseparable_iff_pow_mem](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/PurelyInseparable.html#isPurelyInseparable_iff_pow_mem)`. But like you said, we need to either extend purely inseparable to non-commutative case or figure out how to define `k(\alpha)` in the notation of that blog (the difficulty here is that `IntermediateField` demands a field over `k(\alpha)`, which isn't easy to find). This is surely an interesting idea.

**Review by Yu-Misaka — COMMENTED** [review]
Sorry I didn't notice the change of `open Classical` in @Blackfeather007 's commit. It is indeed better to be placed behind.

**Comment by Whysoserioushah** [comment]
I think instead of `open Classical`, the right thing to do is use tactic `Classical` whenever you need it

**Comment by acmepjz** [comment]
Do you think this is a better statement of the result?
```lean
import Mathlib.RingTheory.Algebraic
import Mathlib.FieldTheory.Separable

example {k D : Type*} [Field k] [DivisionRing D] [Algebra k D]
    [Algebra.IsAlgebraic k D]
    (hneq : (⊥ : Subalgebra k D) ≠ ⊤) :
    ∃ x : D, x ∉ (⊥ : Subalgebra k D) ∧ IsSeparable k x := by
  sorry
```
Note that this is not necessary correct; I haven't assume `k` is the center of `D`.

The advantage of this statement is that now `k` and `D` are both types, while your approach `k` is a subring, then converted to a type.

**Comment by Whysoserioushah** [comment]
> Do you think this is a better statement of the result?
> 
> ```lean
> import Mathlib.RingTheory.Algebraic
> import Mathlib.FieldTheory.Separable
> 
> example {k D : Type*} [Field k] [DivisionRing D] [Algebra k D]
>     [Algebra.IsAlgebraic k D]
>     (hcenter : Subalgebra.center k D = ⊥)
>     (hneq : (⊥ : Subalgebra k D) ≠ ⊤) :
>     ∃ x : D, x ∉ (⊥ : Subalgebra k D) ∧ IsSeparable k x := by
>   sorry
> ```
> 
> ~Note that this is not necessary correct; I haven't assume `k` is the center of `D`.~ The center assumption is needed, otherwise a couhterexample is `D` a (commutative) purely inseparable extension of `k`. But what about this: change the assumption to `Subalgebra.center k D ≠ ⊤` and the result to `∃ x : D, x ∉ Subalgebra.center k D ∧ IsSeparable k x`?
> 
> The advantage of this statement is that now `k` and `D` are both types, while your approach `k` is a subring, then converted to a type.

Then probly the assumption `hneq` is redundant since if ⊥ = ⊤ then not in ⊥ is in the empty set

**Comment by Whysoserioushah** [comment]
Also it's probly not the best idea to use `rename_i`

**Comment by faenuccio** [comment]
> Do you think this is a better statement of the result?
> 
> ```lean
> import Mathlib.RingTheory.Algebraic
> import Mathlib.FieldTheory.Separable
> 
> example {k D : Type*} [Field k] [DivisionRing D] [Algebra k D]
>     [Algebra.IsAlgebraic k D]
>     (hcenter : Subalgebra.center k D = ⊥)
>     (hneq : (⊥ : Subalgebra k D) ≠ ⊤) :
>     ∃ x : D, x ∉ (⊥ : Subalgebra k D) ∧ IsSeparable k x := by
>   sorry
> ```
> 
> ~Note that this is not necessary correct; I haven't assume `k` is the center of `D`.~ The center assumption is needed, otherwise a couhterexample is `D` a (commutative) purely inseparable extension of `k`. But what about this: change the assumption to `Subalgebra.center k D ≠ ⊤` and the result to `∃ x : D, x ∉ Subalgebra.center k D ∧ IsSeparable k x`?
> 
> The advantage of this statement is that now `k` and `D` are both types, while your approach `k` is a subring, then converted to a type.

This is probably a good point; I would suggest that we try to keep *both* versions, provided the proof of the second is very very short using the first one.

**Comment by faenuccio** [comment]
@Whysoserioushah I have seen your commit e86ef6420621ebc0b9f836de5958c2ee15e9691e and that you have removed some comment I made. It is normally a good habit to only leave the authors of one branch to commit/push, and to add suggestions that they can point-by-point decide to accept or reject. By the way, do you have a Zulip account, so that we can communicate more directly there (which is certainly more appropriate than here)? Thanks!

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 1]
```diff
@@ -0,0 +1,258 @@
...
+
+local notation3 "k" => (Subring.center D)
+
+instance : Algebra (Subring.center D) D := Algebra.ofModule smul_mul_assoc mul_smul_comm
+
+private def f (a : D) : D →ₗ[k] D := {
+  toFun := fun x ↦ a * x
+  map_add' := fun x y ↦ LeftDistribClass.left_distrib a x y
+  map_smul' := fun m x ↦ by simp only [mul_smul_comm, RingHom.id_apply]
+}
```
Comment (acmepjz) [inline Mathlib/FieldTheory/JacobsonNoether.lean:54]: Maybe you can use [LinearMap.mulLeft](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Bilinear.html#LinearMap.mulLeft) for `f`, [LinearMap.mulRight](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Bilinear.html#LinearMap.mulRight) for `g`, [LinearMap.commute_mulLeft_right](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Bilinear.html#LinearMap.commute_mulLeft_right) for they commutes, etc. etc.

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 2]
```diff
@@ -0,0 +1,258 @@
...
+
+@[simp]
+private lemma g_def (a x : D) : g a x = x * a := rfl
+
+private def δ (a : D) : D →ₗ[k] D := {
+  toFun := f a - g a
+  map_add' := fun x y ↦ by simp only [Pi.sub_apply, map_add, map_add, add_sub_add_comm]
+  map_smul' := fun m x ↦ by simp only [Pi.sub_apply, map_smul, RingHom.id_apply, smul_sub]
+}
```
Comment (acmepjz) [inline Mathlib/FieldTheory/JacobsonNoether.lean:72]: Maybe you can just write `private def δ (a : D) : D →ₗ[k] D := f - g`

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 1 above)
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean]: good idea, implemented, thanks!

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 2 above)
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean]: implemented

**Comment by Whysoserioushah** [comment]
> @Whysoserioushah I have seen your commit [e86ef64](https://github.com/leanprover-community/mathlib4/commit/e86ef6420621ebc0b9f836de5958c2ee15e9691e) and that you have removed some comment I made. It is normally a good habit to only leave the authors of one branch to commit/push, and to add suggestions that they can point-by-point decide to accept or reject. By the way, do you have a Zulip account, so that we can communicate more directly there (which is certainly more appropriate than here)? Thanks!

Yes sorry I thought they consent me to edit on their branch when we were in PKU, my zulipchat account name is Edison Xie, id is 699016 we should probably make a groupchat in case of further possible project for them what do you think? :)

**Comment by faenuccio** [comment]
> > @Whysoserioushah I have seen your commit [e86ef64](https://github.com/leanprover-community/mathlib4/commit/e86ef6420621ebc0b9f836de5958c2ee15e9691e) and that you have removed some comment I made. It is normally a good habit to only leave the authors of one branch to commit/push, and to add suggestions that they can point-by-point decide to accept or reject. By the way, do you have a Zulip account, so that we can communicate more directly there (which is certainly more appropriate than here)? Thanks!
> 
> Yes sorry I thought they consent me to edit on their branch when we were in PKU, my zulipchat account name is Edison Xie, id is 699016 we should probably make a groupchat in case of further possible project for them what do you think? :)

OK, no problem: and thanks for the zulip name! Concerning the group chat, our hope is that everybody will be a regular active Zulip user, and private groups go a bit against this philosophy. I normally use DM with groups that I mentor, as in this case, but then the public chat is preferable.

**Comment by acmepjz** [comment]
By the way, out of curiosity I'm working on a much shorter proof (also based on the blog link you posted), which is expected to be ~100 lines. I think I should not spoil you for now 😂

**Review by Yu-Misaka — COMMENTED** [review]
This might not be a good commit and a recompilation is needed.
1. I moved `center_char_iff` to Algebra/CharP/Subring, this is a proof for characteristic of a division ring is equal to its center's. The reason for such move is that `subring` in Algebra/CharP/Subring gives a weaker but more general statement.
2. The instance `Algebra k D` is moved to Algebra/Algebra/Basic. I don't have any convincing argument in favour of this move - I just can't find other related file that works.

File: Mathlib/Algebra/CharP/LinearMaps.lean [hunk 3]
```diff
@@ -0,0 +1,35 @@
...
+import Mathlib.Algebra.CharP.Subring
+
+variable {R M : Type*} [CommSemiring R] [AddCommMonoid M] [Module R M]
+
+/-- For a commutative semiring `R` and a `R`-module `M`, if `M` contains an
+  element `x` that can eliminate `r` in `r • x = 0` (finding such element usually
+  depends on specific `•`), then the characteristic of `R` is equal to the
+  characteristic of `R`-linear endomorphism of `M`.-/
+instance char_eq_if {p : ℕ} [hchar : CharP R p]
+  (hreduction : ∃ x : M, ∀ r : R, r • x = 0 → r = 0) : CharP (M →ₗ[R] M) p where
```
Comment (acmepjz) [inline Mathlib/Algebra/CharP/LinearMaps.lean:15]: Do you really need this instance? In my opinion this `instance` is not working with instance inferring system (only works as a `theorem`), since from the conclusion `CharP (M →ₗ[R] M) p` it cannot says `hreduction` must be satisfied.

File: Mathlib/Algebra/CharP/LinearMaps.lean [hunk 4]
```diff
@@ -0,0 +1,35 @@
...
+/-- For a division ring `D` and its center `k`, `k`-linear endomorphism
+  of `D` has the same characteristic as `D`-/
+instance {D : Type*} [DivisionRing D] {p : ℕ} [hchar : CharP D p] :
+  CharP (D →ₗ[(Subring.center D)] D) p := by
+  letI : CharP (Subring.center D) p := CharP.center_char_eq_iff.1 hchar
+  refine char_eq_if (p := p) (R := (Subring.center D)) (M := D) ⟨1, ?_⟩
+  intro r hr
+  have : r • (1 : D) = r := by
+    simp [(· • ·), SMul.smul]
+  exact ZeroMemClass.coe_eq_zero.mp <| this ▸ hr
```
Comment (acmepjz) [inline Mathlib/Algebra/CharP/LinearMaps.lean:35]: I think you can use [charP_of_injective_ringHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/CharP/Algebra.html#charP_of_injective_ringHom) (after deducing that `Subring.center D` is of characteristic p). In this way the proof becomes a one-liner.

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 5]
```diff
@@ -0,0 +1,233 @@
...
+    self_eq_add_left] at deq
+  exact one_ne_zero deq
+
+variable (D) in
+/-- For a non-commutative finite dimensional division algebra D (with base ring being its center),
+  there exist a separable element xover its center-/
+theorem Jacobson_Noether (H : k ≠ (⊤ : Subring D)) :
+    ∃ x : D, x ∉ k ∧ IsSeparable k x := by
+  obtain ⟨p, hp⟩ := CharP.exists D
+  rcases CharP.char_is_prime_or_zero D p with h | h
```
Comment (acmepjz) [inline Mathlib/FieldTheory/JacobsonNoether.lean:201]: I think it's better to use `ExpChar` instead, by this way the char 0 and char p proof can probably be unified.

File: Mathlib/Algebra/CharP/LinearMaps.lean (hunk 4 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/CharP/LinearMaps.lean]: Wow, it works, thanks!

File: Mathlib/Algebra/CharP/LinearMaps.lean (hunk 3 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/CharP/LinearMaps.lean]: converted to `theorem`. And do you think it is still worth keeping? The benefit of keeping it, I think, is that the injective ring homomorphism in `charP_of_injective_ringHom` might not exists for more general `R`-module `M`. So this is potentially useful somewhere else. The downside is that it kinda overlaps with `charP_of_injective_ringHom` when injective homomorphism like `Algebra.lmul` do exits, and if such function exists, `hreduction` should also be satisfied.

**Comment by Yu-Misaka** [comment]
> > > There is API for purely inseparable extension (unfortunately, only for commutative rings). Would you consider using it (after extend it to non-commutative case)?
> > 
> > 
> > I think indeed we've tried using [isPurelyInseparable_iff_pow_mem](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/PurelyInseparable.html#isPurelyInseparable_iff_pow_mem) for Fact 2 in the blog. But like you said, we need to either extend purely inseparable to non-commutative case or figure out how to define `k(\alpha)` in the notation of that blog (the difficulty here is that `IntermediateField.adjoin` demands a field over `k(\alpha)`, which isn't easy to find). This is surely an interesting idea.
> 
> The newest version of mathlib supports purely inseparable for non-commutative rings. You can try it out.

Thanks for the PR! I've already merged recent master into this branch. We'll look into it.

File: Mathlib/Algebra/CharP/LinearMaps.lean (hunk 3 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/CharP/LinearMaps.lean]: converted to `theorem`. Do you think it is still worth keeping?

Comment (faenuccio) [reply Mathlib/Algebra/CharP/LinearMaps.lean]: To add something to @acmepjz 's comment (that is perfectly appropriate): if you type
```lean
#lint
```
at the end of your file (with `char_eq_if` still marked as `instance`) you get
```
-- Found 1 error in 4 declarations (plus 62 automatically generated ones) in the current file with 15 linters

/- The `impossibleInstance` linter reports:
SOME INSTANCES HAVE ARGUMENTS THAT ARE IMPOSSIBLE TO INFER
These are arguments that are not instance-implicit and do not appear in
another instance-implicit argument or the return type. -/
#check @char_eq_if /- argument 8 hreduction : ∃ x, ∀ (r : R), r • x = 0 → r = 0 -/
```
This error tells you that type-class inference is _uncapable_ of finding `hreduction` automatically and so the system does not even accept `char_eq_if` as an `instance`. The point here is that if there are assumptions in your declaration (like `hreduction`), for it to be an `instance` it is needed that these assumptions are found _automatically_. By this, we mean that they must themselves be part of the automatic type-search tree, while if they are simply variables the system will fail to find them. The only solution would be to create a `class hreduction` whose terms are types satisfying it, and requiring at the beginning that `R` is of this class (if makes no sense here, I am just trying to explain the whole situation). As a rule-of-thumb, you can think that (apart from type variables) all variables of a class/instance must themselves be classes.

Comment (faenuccio) [reply Mathlib/Algebra/CharP/LinearMaps.lean]: > converted to `theorem`. Do you think it still worth keeping?

Well, why not?

Comment (Yu-Misaka) [reply Mathlib/Algebra/CharP/LinearMaps.lean]: > To add something to @acmepjz 's comment (that is perfectly appropriate): if you type
> 
> ```lean
> #lint
> ```
> 
> at the end of your file (with `char_eq_if` still marked as `instance`) you get
> 
> ```
> -- Found 1 error in 4 declarations (plus 62 automatically generated ones) in the current file with 15 linters
> 
> /- The `impossibleInstance` linter reports:
> SOME INSTANCES HAVE ARGUMENTS THAT ARE IMPOSSIBLE TO INFER
> These are arguments that are not instance-implicit and do not appear in
> another instance-implicit argument or the return type. -/
> #check @char_eq_if /- argument 8 hreduction : ∃ x, ∀ (r : R), r • x = 0 → r = 0 -/
> ```
> 
> This error tells you that type-class inference is _uncapable_ of finding `hreduction` automatically and so the system does not even accept `char_eq_if` as an `instance`. The point here is that if there are assumptions in your declaration (like `hreduction`), for it to be an `instance` it is needed that these assumptions are found _automatically_. By this, we mean that they must themselves be part of the automatic type-search tree, while if they are simply variables the system will fail to find them. The only solution would be to create a `class hreduction` whose terms are types satisfying it, and requiring at the beginning that `R` is of this class (if makes no sense here, I am just trying to explain the whole situation). As a rule-of-thumb, you can think that (apart from type variables) all variables of a class/instance must themselves be classes.

Thanks for the explanation! I noticed before in previous Github Action that there are lint mathlib errors but I didn't know what it was. Now it's clear, thanks again!

Comment (Yu-Misaka) [reply Mathlib/Algebra/CharP/LinearMaps.lean]: > > converted to `theorem`. Do you think it still worth keeping?
> 
> Well, why not?

I was thinking that, it seems possible to deduce similar result via `charP_of_injective_ringHom`. For instance, we can define map `R → (M →ₗ[R] M)` as `r ↦ (fun (x : M) ↦ r • x)`. If this map is injective, then we are done. 
And its injectivity is equivalent to `∀ x : M, ∀ r : R, r • x = 0 → r = 0`, which is slightly more strict than `hreduction : ∃ x : M, ∀ r : R, r • x = 0 → r = 0`. Plus, one might also need `R` to be a ring to prove injectivity. Hence, I think that `char_eq_if` could be useful, but I'm not sure if it is significant enough to be in mathlib.

File: Mathlib/Algebra/Algebra/Basic.lean [hunk 6]
```diff
@@ -132,18 +132,18 @@ end CommSemiring
 
 section Ring
 
-variable [CommRing R]
-variable (R)
```
Comment (faenuccio) [inline Mathlib/Algebra/Algebra/Basic.lean:136]: Can you explain this change?

File: Mathlib/Algebra/CharP/LinearMaps.lean (hunk 3 above)
Comment (faenuccio) [reply Mathlib/Algebra/CharP/LinearMaps.lean]: Well, all in all I agree that this is then probably not needed, you can simply apply `charP_of_injective_ringHom`.

File: Mathlib/Algebra/Algebra/Basic.lean (hunk 6 above)
Comment (acmepjz) [reply Mathlib/Algebra/Algebra/Basic.lean:136]: I think this is not needed, since the newly added instance has `{R : Type*}` which will override the existing `R`.

**Review by faenuccio — COMMENTED** [review]
> I think this is not needed, since the newly added instance has `{R : Type*}` which will override the existing `R`. 

Ah, you mean that in the new instance we do not want the `Comm`  assumption on  `R`?

**Comment by acmepjz** [comment]
> > I think this is not needed, since the newly added instance has `{R : Type*}` which will override the existing `R`.
> 
> Ah, you mean that in the new instance we do not want the `Comm` assumption on `R`?

I haven't checked the mathematics, but in the following code
```lean
variable [CommRing R]
variable (R)

...

instance {R : Type*} [Ring R] : ...
```
the code `instance {R : Type*} [Ring R]` will introduce a new `R` which is different from the existing `R` (you can check the info panel), so the original `[CommRing R]` is not carried over.

File: Mathlib/Algebra/Algebra/Basic.lean [hunk 7]
```diff
@@ -132,18 +132,18 @@ end CommSemiring
...
+abbrev semiringToRing (R : Type*) [CommRing R] [Semiring A] [Algebra R A] : Ring A :=
   { __ := (inferInstance : Semiring A)
     __ := Module.addCommMonoidToAddCommGroup R
     intCast := fun z => algebraMap R A z
     intCast_ofNat := fun z => by simp only [Int.cast_natCast, map_natCast]
     intCast_negSucc := fun z => by simp }
 
+instance {R : Type*} [Ring R] : Algebra (Subring.center R) R :=
+  Algebra.ofModule smul_mul_assoc mul_smul_comm
+
```
Comment (acmepjz) [inline Mathlib/Algebra/Algebra/Basic.lean:146]: I think maybe this is better?
```lean
instance {R : Type*} [Ring R] : Algebra (Subring.center R) R where
  toFun := Subtype.val
  map_one' := rfl
  map_mul' _ _ := rfl
  map_zero' := rfl
  map_add' _ _ := rfl
  commutes' := fun ⟨_, h⟩ x ↦ (Subring.mem_center_iff.1 h x).symm
  smul_def' _ _ := rfl
```
Although it's longer, but when it converts to map it is definitionally equal to `Subtype.val` and which is injective. I think this will make some of the following proofs shorter.

File: Mathlib/Algebra/Algebra/Basic.lean (hunk 6 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/Algebra/Basic.lean:136]: I thought `[CommRing R]` might interfere with the new instance so I moved it down. It is unnecessary if no confusion will be caused.

File: Mathlib/Algebra/CharP/Subring.lean [hunk 8]
```diff
@@ -33,4 +32,11 @@ instance subring (R : Type u) [Ring R] (p : ℕ) [CharP R p] (S : Subring R) : C
 instance subring' (R : Type u) [CommRing R] (p : ℕ) [CharP R p] (S : Subring R) : CharP S p :=
   CharP.subring R p S
 
+/-- The characteristic of a division ring is equal to the characteristic
+  of its center-/
+theorem center_char_eq_iff {R : Type u} [DivisionRing R] {p : ℕ} :
+    CharP R p ↔ CharP (Subring.center R) p :=
+  (@RingHom.charP_iff (Subring.center R) R _ _ (algebraMap (Subring.center R) R)
+    (NoZeroSMulDivisors.algebraMap_injective (Subring.center R) R) p).symm
```
[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/Algebra/CharP/Subring.lean]: implemented, thanks!

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 9]
```diff
@@ -0,0 +1,233 @@
...
+- `D` is a noncommutative division algebra
+- `k` is the center of `D`
+
+## Implementation Notes
+
+## Reference
+* <https://ysharifi.wordpress.com/2011/09/30/the-jacobson-noether-theorem/>
+-/
+
+-- *Filippo* This should probably be moved to another file.
```
[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean]: moved to Algebra/Field/Power.lean as there are relevant results concerning division ring.

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 5 above)
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean:196]: Sorry I didn't catch it, why char 0 and char p can be unified through `ExpChar`? I tried to change the statement of `JacobsonNoether_charZero` and `JacobsonNoether_charP` into `ExpChar`. But when I attempted to use them in `Jacobson_Noether`, I still need `cases` to split the condition and apply two lemmas accordingly.

File: Mathlib/Algebra/Algebra/Basic.lean (hunk 7 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/Algebra/Basic.lean]: Indeed it might. Thanks

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 5 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/JacobsonNoether.lean:196]: I mean you don't need to separate the proof of `JacobsonNoether_charZero` and `JacobsonNoether_charP`. Instead, always use the proof of `JacobsonNoether_charP` but use `ExpChar` instead. The [isPurelyInseparable_iff_pow_mem](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/PurelyInseparable.html#isPurelyInseparable_iff_pow_mem) is stated using `ExpChar`, hence unifies char 0 and char p case. In the char 0 case its `ExpChar` is 1, which makes your proof of `JacobsonNoether_charP` still works for char 0 case.

**Review by Yu-Misaka — COMMENTED** [review]
Greetings! In this commit, I added section `purelyInsep`, in which I tried to switch to `ExpChar` and purely inseparable. By such, `JacobsonNoether_charZero` and `JacobsonNoether_charP` are unified. 
~~However, I wasn't able to fill in the two `sorry` in `temp_exists_pow_mem_center_ofInseparable`, line 209. These two `sorry` are used to show that `Algebra.adjoin k {a}` (`k(a)` in the notation of the blog) is purely separable over `k`. The difficulties here are to prove `k(a)` is integral over `k`, and resolve the image of `algebraMap`.~~ Plus, I noticed that the new instance in LinearMaps seems to be slow.

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 5 above)
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean:199]: > I mean you don't need to separate the proof of `JacobsonNoether_charZero` and `JacobsonNoether_charP`. Instead, always use the proof of `JacobsonNoether_charP` but use `ExpChar` instead. The [isPurelyInseparable_iff_pow_mem](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/PurelyInseparable.html#isPurelyInseparable_iff_pow_mem) is stated using `ExpChar`, hence unifies char 0 and char p case. In the char 0 case its `ExpChar` is 1, which makes your proof of `JacobsonNoether_charP` still works for char 0 case.

Thanks! I've finished major migration in [the newest commit](https://github.com/leanprover-community/mathlib4/pull/16525/commits/7555cf451433a9626b1f78617184077df5abf847).

**Comment by acmepjz** [comment]
> I wasn't able to fill in the two `sorry` in `temp_exists_pow_mem_center_ofInseparable`, line 209. These two `sorry` are used to show that `Algebra.adjoin k {a}` (`k(a)` in the notation of the blog) is purely separable over `k`. The difficulties here are to prove `k(a)` is integral over `k`, and resolve the image of `algebraMap`.

I don't think you need to tackle `Algebra.adjoin` things here, since they are already solved in separable/purely inseparable APIs. You may start with the following code:
```lean
import Mathlib.FieldTheory.PurelyInseparable

open LinearMap in
theorem test1
    {k D : Type*} [Field k] [DivisionRing D] [Algebra k D] [Algebra.IsAlgebraic k D]
    (hcenter : Subalgebra.center k D = ⊥)
    (hneq : (⊥ : Subalgebra k D) ≠ ⊤) :
    ∃ x : D, x ∉ (⊥ : Subalgebra k D) ∧ IsSeparable k x := by
  classical
  obtain ⟨q, _⟩ := ExpChar.exists k
  by_contra! H
  have h1 : IsPurelyInseparable k D :=
    ⟨Algebra.IsAlgebraic.isIntegral, fun x ↦ not_imp_not.1 (H x)⟩
  rw [isPurelyInseparable_iff_pow_mem k q] at h1
  sorry
```

**Comment by Yu-Misaka** [comment]
> > I wasn't able to fill in the two `sorry` in `temp_exists_pow_mem_center_ofInseparable`, line 209. These two `sorry` are used to show that `Algebra.adjoin k {a}` (`k(a)` in the notation of the blog) is purely separable over `k`. The difficulties here are to prove `k(a)` is integral over `k`, and resolve the image of `algebraMap`.
> 
> I don't think you need to tackle `Algebra.adjoin` things here, since they are already solved in separable/purely inseparable APIs. You may start with the following code:
> 
> ```lean
> import Mathlib.FieldTheory.PurelyInseparable
> 
> open LinearMap in
> theorem test1
>     {k D : Type*} [Field k] [DivisionRing D] [Algebra k D] [Algebra.IsAlgebraic k D]
>     (hcenter : Subalgebra.center k D = ⊥)
>     (hneq : (⊥ : Subalgebra k D) ≠ ⊤) :
>     ∃ x : D, x ∉ (⊥ : Subalgebra k D) ∧ IsSeparable k x := by
>   classical
>   obtain ⟨q, _⟩ := ExpChar.exists k
>   by_contra! H
>   have h1 : IsPurelyInseparable k D :=
>     ⟨Algebra.IsAlgebraic.isIntegral, fun x ↦ not_imp_not.1 (H x)⟩
>   rw [isPurelyInseparable_iff_pow_mem k q] at h1
>   sorry
> ```
> 
> First you can conclude `IsPurelyInseparable k D` just from the definition of purely inseparable in mathlib. Then you use `isPurelyInseparable_iff_pow_mem` to conclude that every element of `D` can be powered into `k`.

Indeed, I can bypass `Algebra.adjoin`, thanks! I've finished migration of the first statement, and will try out the second statement.

**Comment by Yu-Misaka** [comment]
I added in namespace `canary` some trials regarding translation between two statements inspired by @faenuccio. Now the only thing remains is proving `IsSeparable L x` from `IsSeparable (center D) x` given `L ≃+* (center D)`. I wonder if we have any method in Lean to "view isomorphic structures as the same thing" as we sometimes do in math.

**Comment by acmepjz** [comment]
> Now the only thing remains is proving `IsSeparable L x` from `IsSeparable (center D) x` given `L ≃+* (center D)`. I wonder if we have any method in Lean to "view isomorphic structures as the same thing" as we sometimes do in math.

Lean is very explicit on such things (compared to human doing math, which will occasionally cause subtle errors). Maybe you can try [IsSeparable.of_equiv_equiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Separable.html#IsSeparable.of_equiv_equiv).

**Comment by Yu-Misaka** [comment]
> > Now the only thing remains is proving `IsSeparable L x` from `IsSeparable (center D) x` given `L ≃+* (center D)`. I wonder if we have any method in Lean to "view isomorphic structures as the same thing" as we sometimes do in math.
> 
> Lean is very explicit on such things (compared to human doing math, which will occasionally cause subtle errors). Maybe you can try [IsSeparable.of_equiv_equiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Separable.html#IsSeparable.of_equiv_equiv).
> 
> Oh, it requires fields... maybe we should generalize that result first...

Good idea! I found that at least in our application here, we can generalize [IsSeparable.of_equiv_equiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Separable.html#IsSeparable.of_equiv_equiv) via generalizing [IsSeparable.tower_top](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Separable.html#IsSeparable.tower_top), which can be done by removing commutativity in [minpoly.dvd_map_of_isScalarTower](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Minpoly/Field.html#minpoly.dvd_map_of_isScalarTower). I've wrote a sketch `IsSeparable.of_equiv_equiv'` in namespace `canary`.

**Comment by acmepjz** [comment]
> we can generalize [IsSeparable.of_equiv_equiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Separable.html#IsSeparable.of_equiv_equiv) via generalizing [IsSeparable.tower_top](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Separable.html#IsSeparable.tower_top), which can be done by removing commutativity in [minpoly.dvd_map_of_isScalarTower](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Minpoly/Field.html#minpoly.dvd_map_of_isScalarTower).

You are welcomed to submit a separate PR for generalizing these.

**Comment by Yu-Misaka** [comment]
Thanks! Though I still have some questions before that. I've moved related codes to namespace `separable_canary`. The first question is that I want to have an instance `Algebra A₂ B₁` in line 200, but if I switch `def` to `instance`, it immediately yields error `cannot find synthesization order for instance @instAlgebra`. The second is that I want `IsSeparable.of_equiv_equiv'` and `IsSeparable.of_equiv_equiv''` to use variables defined at the beginning of the namespace, but once I omit them in the statement, the infer system seems to be confused.

**Comment by acmepjz** [comment]
If it's me, I'll write the instance `Algebra A₂ B₁` into the proof of `IsSeparable.of_equiv_equiv` instead of outside (because it only uses inside this proof, put it outside will confuse typeclass inferencing system). Like this:
```lean
lemma IsSeparable.of_equiv_equiv₀ ... ... :=
  ......
  letI : Algebra A₂ B₁ := {
    ......
  }
  ...
```

**Comment by Yu-Misaka** [comment]
> If it's me, I'll write the instance `Algebra A₂ B₁` into the proof of `IsSeparable.of_equiv_equiv` instead of outside (because it only uses inside this proof, put it outside will confuse typeclass inferencing system). Like this:
> 
> ```lean
> lemma IsSeparable.of_equiv_equiv₀ ... ... :=
>   ......
>   letI : Algebra A₂ B₁ := {
>     ......
>   }
>   ...
> ```
> 
> Maybe you can check the original proof
> 
> https://github.com/leanprover-community/mathlib4/blob/4e3fd1ae9518ed2894bfc00592c81a3ee2b6180e/Mathlib/FieldTheory/Separable.lean#L687-L697
> the line 689 defines the instance `Algebra A₂ B₁`.

Indeed that could help. I created a PR on it so we might discuss more about it there. The problem however, is that I might use this instance in the statement. For example in `IsSeparable.of_equiv'` (line 725) of the new PR, I need to state `IsSeparable A₂ x` - this requires `Algebra A₂ B₁`. And the original proof could fail here since `.toAlgebra` requires commutative `B₁`.

**Comment by Yu-Misaka** [comment]
Greetings! Sorry I have been stuck here for a while and I didn't manage to advance. The problem now is to prove ```(algebraMap L D).comp ↑equiv.symm = algebraMap { x // x ∈ center D } D```, where ```equiv``` is equivalence ```L ≃+* { x // x ∈ center D }```. Can any one help? Thanks a lot in advance!

**Comment by faenuccio** [comment]
@acmepjz I think this might be a good moment to share the proof you showed me in the DM of Sep14th of your `test1` to prove the `example` on ll. 198 of `Mathlib\FieldTheory\JacobsonNoether.lean`, no? I can do this, but since this is your code, I'd rather leave it to you 😄

**Comment by acmepjz** [comment]
> I think this might be a good moment to share the proof you showed me in the DM of Sep14th of your `test1` to prove the `example` on ll. 198 of `Mathlib\FieldTheory\JacobsonNoether.lean`, no? I can do this, but since this is your code, I'd rather leave it to you 😄

Sure, but my proof is in the other direction
```lean
import Mathlib.FieldTheory.PurelyInseparable

open LinearMap in
theorem test1
    {k D : Type*} [Field k] [DivisionRing D] [Algebra k D] [Algebra.IsAlgebraic k D]
    (hcenter : Subalgebra.center k D = ⊥)
    (hneq : (⊥ : Subalgebra k D) ≠ ⊤) :
    ∃ x : D, x ∉ (⊥ : Subalgebra k D) ∧ IsSeparable k x := by
  -- omitted for now
  sorry

instance {R : Type*} [Ring R] : Algebra (Subring.center R) R where
  toFun := Subtype.val
  map_one' := rfl
  map_mul' _ _ := rfl
  map_zero' := rfl
  map_add' _ _ := rfl
  commutes' r x := (Subring.mem_center_iff.1 r.2 x).symm
  smul_def' _ _ := rfl

theorem test2 {D : Type*} [DivisionRing D]
    [Algebra.IsAlgebraic (Subring.center D) D]
    (hneq : Subring.center D ≠ ⊤) :
    ∃ x : D, x ∉ Subring.center D ∧ IsSeparable (Subring.center D) x := by
  have := test1 (k := Subring.center D) (D := D) ?_ ?_
  · obtain ⟨x, hx, hsep⟩ := this
    exact ⟨x, by simpa using (show x ∉ Set.range Subtype.val from hx), hsep⟩
  · ext x
    change x ∈ Subring.center D ↔ x ∈ Set.range Subtype.val
    simp
  · contrapose! hneq
    apply SetLike.coe_injective
    simpa using (show Set.range Subtype.val = ⊤ from congr(SetLike.coe $(hneq)))
```
But I think the author asks for `test2 -> test1`, which I'm not think of yet.

Note that my proof does not use `IsSeparable.of_equiv_equiv`.

> in fact I don't quite understand why we need the diagram to be commutative in `IsSeparable.of_equiv_equiv`

Maybe you can check its proof to see what will happen without the condition that the diagram is commutative.

**Comment by acmepjz** [comment]
> The problem now is to prove `(algebraMap L D).comp ↑equiv.symm = algebraMap { x // x ∈ center D } D`, where `equiv` is equivalence `L ≃+* { x // x ∈ center D }`.

Can you try `by ext; rfl` or `by ext; simp`?

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 10]
```diff
@@ -0,0 +1,327 @@
...
+example {L D : Type*} [Field L] [DivisionRing D] [Algebra L D] [alg : Algebra.IsAlgebraic L D]
+    (hcenter : Subalgebra.center L D = ⊥) (hneq : (⊥ : Subalgebra L D) ≠ ⊤) :
+    ∃ x : D, x ∉ (⊥ : Subalgebra L D) ∧ IsSeparable L x := by
+  set k' := (⊥ : Subalgebra L D).toSubring with hk'
+  have hcenter' : k' = center D := by apply (hcenter.symm) ▸ hk'
+  have ntrivial : k' ≠ ⊤ := Ne.intro fun heq ↦ hneq <| toSubring_eq_top.mp <| hk' ▸ heq
+  set ψ : L ≃+* (⊥ : Subalgebra L D) := ⟨((Algebra.botEquiv L D).toRingEquiv).symm,
+      fun _ _ ↦ by simp only [Equiv.toFun_as_coe, EquivLike.coe_coe, map_mul],
+      fun _ _ ↦ by simp only [Equiv.toFun_as_coe, EquivLike.coe_coe, map_add]⟩
+  set φ : (⊥ : Subalgebra L D) ≃+* (center D) := hcenter ▸ RingEquiv.refl (Subalgebra.center L D)
```
Comment (acmepjz) [inline Mathlib/FieldTheory/JacobsonNoether.lean:207]: It's best to use `Subalgebra.equivOfEq` here. The `▸` probably will erase the actual definition of `φ`.

**Comment by faenuccio** [comment]
> > The problem now is to prove `(algebraMap L D).comp ↑equiv.symm = algebraMap { x // x ∈ center D } D`, where `equiv` is equivalence `L ≃+* { x // x ∈ center D }`.
> 
> Can you try `by ext; rfl` or `by ext; simp`?

I proved both, and I also tried to expand a bit the definitions, with no result. Probably the suggestion of using the `Subalgebra.equivOfEq` is the right one, haven't checked it.

**Comment by faenuccio** [comment]
> > I think this might be a good moment to share the proof you showed me in the DM of Sep14th of your `test1` to prove the `example` on ll. 198 of `Mathlib\FieldTheory\JacobsonNoether.lean`, no? I can do this, but since this is your code, I'd rather leave it to you 😄
> 
> Sure, but my proof is in the other direction
> 
> ```lean
> import Mathlib.FieldTheory.PurelyInseparable
> 
> open LinearMap in
> theorem test1
>     {k D : Type*} [Field k] [DivisionRing D] [Algebra k D] [Algebra.IsAlgebraic k D]
>     (hcenter : Subalgebra.center k D = ⊥)
>     (hneq : (⊥ : Subalgebra k D) ≠ ⊤) :
>     ∃ x : D, x ∉ (⊥ : Subalgebra k D) ∧ IsSeparable k x := by
>   -- omitted for now
>   sorry
> 
> instance {R : Type*} [Ring R] : Algebra (Subring.center R) R where
>   toFun := Subtype.val
>   map_one' := rfl
>   map_mul' _ _ := rfl
>   map_zero' := rfl
>   map_add' _ _ := rfl
>   commutes' r x := (Subring.mem_center_iff.1 r.2 x).symm
>   smul_def' _ _ := rfl
> 
> theorem test2 {D : Type*} [DivisionRing D]
>     [Algebra.IsAlgebraic (Subring.center D) D]
>     (hneq : Subring.center D ≠ ⊤) :
>     ∃ x : D, x ∉ Subring.center D ∧ IsSeparable (Subring.center D) x := by
>   have := test1 (k := Subring.center D) (D := D) ?_ ?_
>   · obtain ⟨x, hx, hsep⟩ := this
>     exact ⟨x, by simpa using (show x ∉ Set.range Subtype.val from hx), hsep⟩
>   · ext x
>     change x ∈ Subring.center D ↔ x ∈ Set.range Subtype.val
>     simp
>   · contrapose! hneq
>     apply SetLike.coe_injective
>     simpa using (show Set.range Subtype.val = ⊤ from congr(SetLike.coe $(hneq)))
> ```
> 
> But I think the author asks for `test2 -> test1`, which I'm not think of yet.

Ah right! Well, they might be happy to see a proof of `test1` directly and actually all of the code you gave me, by now...😄

**Comment by Yu-Misaka** [comment]
Thanks all for your kind help @faenuccio @acmepjz! I sincerely appreciate that. Also, @FR-vdash-bot managed to close the second statement in a rather neat way as the above commit suggests.

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 10 above)
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean]: Indeed that make it easier to reach the definition, thanks!

File: Mathlib/Algebra/CharP/LinearMaps.lean [hunk 11]
```diff
@@ -0,0 +1,65 @@
...
+
+-/
+
+variable {R M : Type*} [CommSemiring R] [AddCommMonoid M] [Module R M]
+
+/-- For a commutative semiring `R` and a `R`-module `M`, if `M` contains an
+  element `x` that can eliminate `r` in `r • x = 0` (finding such element usually
+  depends on specific `•`), then the characteristic of `R` is equal to the
+  characteristic of `R`-linear endomorphism of `M`.-/
+theorem char_eq_if {p : ℕ} [hchar : CharP R p]
```
Comment (faenuccio) [inline Mathlib/Algebra/CharP/LinearMaps.lean:42]: See above my comment about this name.

File: Mathlib/Algebra/CharP/LinearMaps.lean [hunk 12]
```diff
@@ -0,0 +1,65 @@
...
+  cast_eq_zero_iff' := by
+    intro n
+    replace hchar := hchar.1 n
+    have reduce : (n : M →ₗ[R] M) = (n : R) • 1 := by
+      simp only [Nat.cast_smul_eq_nsmul, nsmul_eq_mul, mul_one]
+    rw [reduce, LinearMap.ext_iff, hchar.symm]
+    refine ⟨fun h ↦ Exists.casesOn hreduction fun x hx ↦ hx n (h x),
+      fun h ↦ (congrArg (fun t ↦ ∀ x, t • x = 0) h).mpr fun x ↦ zero_smul R x⟩
+
+/-- For a division ring `D` and its center `k`, `k`-linear endomorphism
```
Comment (faenuccio) [inline Mathlib/Algebra/CharP/LinearMaps.lean:53]:
```suggestion
/-- For a division ring `D` and its center `k`, the ring of `k`-linear endomorphisms
```

File: Mathlib/Algebra/CharP/LinearMaps.lean [hunk 13]
```diff
@@ -0,0 +1,65 @@
...
+  element `x` that can eliminate `r` in `r • x = 0` (finding such element usually
+  depends on specific `•`), then the characteristic of `R` is equal to the
+  characteristic of `R`-linear endomorphism of `M`.-/
+theorem char_eq_if {p : ℕ} [hchar : CharP R p]
+    (hreduction : ∃ x : M, ∀ r : R, r • x = 0 → r = 0) : CharP (M →ₗ[R] M) p where
+  cast_eq_zero_iff' := by
+    intro n
+    replace hchar := hchar.1 n
+    have reduce : (n : M →ₗ[R] M) = (n : R) • 1 := by
+      simp only [Nat.cast_smul_eq_nsmul, nsmul_eq_mul, mul_one]
```
Comment (faenuccio) [inline Mathlib/Algebra/CharP/LinearMaps.lean:48]:
```suggestion
    have exact : (n : M →ₗ[R] M) = (n : R) • 1 := by
      simp only [Nat.cast_smul_eq_nsmul, nsmul_eq_mul, mul_one]
```

File: Mathlib/Algebra/CharP/LinearMaps.lean [hunk 14]
```diff
@@ -0,0 +1,65 @@
...
+
+/-- For a commutative semiring `R` and a `R`-module `M`, if `M` contains an
+  element `x` that can eliminate `r` in `r • x = 0` (finding such element usually
+  depends on specific `•`), then the characteristic of `R` is equal to the
+  characteristic of `R`-linear endomorphism of `M`.-/
+theorem char_eq_if {p : ℕ} [hchar : CharP R p]
+    (hreduction : ∃ x : M, ∀ r : R, r • x = 0 → r = 0) : CharP (M →ₗ[R] M) p where
+  cast_eq_zero_iff' := by
+    intro n
+    replace hchar := hchar.1 n
```
Comment (faenuccio) [inline Mathlib/Algebra/CharP/LinearMaps.lean:46]: This line is actually useless, you can simply replace `hchar.symm` by `← hchar.1` two lines below.

File: Mathlib/Algebra/Field/Power.lean [hunk 15]
```diff
@@ -17,6 +17,12 @@ beyond those needed for the basic definition.
 
 variable {α : Type*}
 
+/-- a⁻¹ * d ^ s * a = (a⁻¹ * d * a) ^ s when a is not zero -/
+lemma conj_nonComm_Algebra [DivisionSemiring α] (s : ℕ) (a d : α) (ha : a ≠ 0) :
```
Comment (faenuccio) [inline Mathlib/Algebra/Field/Power.lean:21]: Can you try making both `s` and `a,d` implicit (so in curly brackets `{` and `}` rather than in usual ones `(` and `)`)?

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 16]
```diff
@@ -0,0 +1,209 @@
...
+import Mathlib.Algebra.CharP.LinearMaps
+import Mathlib.Algebra.Field.Power
+import Mathlib.FieldTheory.PurelyInseparable
+
+/-!
+# The Jacobson-Noether theorem
+
+This file contains a proof of the Jacobson-Noether theorem and some auxiliary lemmas.
+Here we discuss different cases of characteristics of
+the noncommutative division algebra `D` with the center `k`.
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:15]:
```suggestion
the noncommutative division algebra `D` with center `k`.
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 17]
```diff
@@ -0,0 +1,209 @@
...
+
+## Main Results
+
+- `Jacobson_Noether` : Let `D` be a noncommutative division algebra with the center `k`.
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:19]:
```suggestion
- `Jacobson_Noether` : Let `D` be a noncommutative division algebra with center `k`.
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 18]
```diff
@@ -0,0 +1,209 @@
...
+## Reference
+* <https://ysharifi.wordpress.com/2011/09/30/the-jacobson-noether-theorem/>
+-/
+
+namespace JacobsonNoether
+
+variable {D : Type*} [DivisionRing D]
+
+local notation3 "k" => (Subring.center D)
+local notation3 "f" => (LinearMap.mulLeft k)
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:39]: I would suggest that you remove `f` and `g` altogether. They already have a name in mathlib and if you `open LinearMap` this name is not very long), and their commutativity is also in the library, so you should rather use it directly rather than creating a new, ad-hoc lemma. You can keep `δ` and the related business, nevertheless (marking them `private` is certainly a good idea).

**Review by faenuccio — COMMENTED** [review]
I left several comments, and I have not started a proper revision of the main file `JacobsonNoether.lean`. Please address them all, and I will then embark in the final review.

**Comment by Yu-Misaka** [comment]
@faenuccio Greetings! Thanks, I've implemented all suggestions
(btw would you please help review #17147? thanks!

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 19]
```diff
@@ -0,0 +1,206 @@
...
+lemma exist_pow_eq_zero_of_le (p : ℕ) [hchar : ExpChar D p]
+    {a : D} (ha : a ∉ k) (hinsep : ∀ x : D, IsSeparable k x → x ∈ k):
+  ∃ m ≥ 1, ∀ n ≥ (p ^ m), (δ a) ^ n = 0 := by
+  obtain ⟨m, hm⟩ := exists_pow_mem_center_ofInseparable' p ha hinsep
+  refine ⟨m, ⟨hm.1, ?_⟩⟩
+  intro n hn
+  have inter : (δ a) ^ (p ^ m) = 0 := by
+    refine LinearMap.ext_iff.2 ?_
+    intro x
+    rw [δ_def' a, sub_pow_expChar_pow_of_commute p m (commute_mulLeft_right a a)]
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:110]:
```suggestion
    rw [δ, Pi.sub_apply, sub_pow_expChar_pow_of_commute p m (commute_mulLeft_right a a)]
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 20]
```diff
@@ -0,0 +1,206 @@
...
+    show ((mulLeft k a) ^ (p ^ m)).1 x - ((mulRight k a) ^ (p ^ m)).1 x = 0
+    rw [l_pow, r_pow, sub_eq_zero_of_eq]
+    suffices h : a ^ (p ^ m) ∈ k from (Subring.mem_center_iff.1 h x).symm
+    exact hm.2
+  rw [((Nat.sub_eq_iff_eq_add hn).1 rfl), pow_add, inter, mul_zero]
+
+variable (D) in
+/-- For a non-commutative finite dimensional division algebra D (with base ring being its center),
+  there exist a separable element xover its center-/
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:119]:
```suggestion
  there exist an element `x` that is separable over its center-/
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 21]
```diff
@@ -0,0 +1,206 @@
...
+variable {D : Type*} [DivisionRing D]
+
+open LinearMap
+
+local notation3 "k" => (Subring.center D)
+private def δ : D → D →ₗ[k] D := mulLeft k - mulRight k
+
+private lemma δ_def (a x : D) : δ a x = mulLeft k a x - mulRight k a x := rfl
+
+private lemma δ_def' (a : D) : δ a = mulLeft k a - mulRight k a := rfl
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:45]:
```suggestion
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 22]
```diff
@@ -0,0 +1,206 @@
...
+
+private lemma l_pow (a : D) (n : ℕ) : ∀ x : D, ((mulLeft k a) ^ n).1 x = (a ^ n) * x := by
+  intro x
+  rw [coe_toAddHom, pow_apply]
+  induction n with
+  | zero => rw [Function.iterate_zero, id_eq, pow_zero, one_mul]
+  | succ _ h => rw [Function.iterate_succ', Function.comp_apply, h,
+    pow_succ', mul_assoc, mulLeft_apply]
+
+private lemma r_pow (a : D) (n : ℕ) : ∀ x : D, ((mulRight k a) ^ n).1 x = x * (a ^ n) := by
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:55]:
```suggestion
private lemma r_pow (a : D) (n : ℕ) : ∀ x : D, ((mulRight k a) ^ n) x = x * (a ^ n) := by
```
Type class inference is able to see through the projection from this ring hom down to a `AddHom`, so please remove this `.1`; you can then remove the `coe_toAddHom` from the `rw`, and do the same for `r_pow`. In the applications around line 112, it suffices again to remove the projection `.1`.

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 23]
```diff
@@ -0,0 +1,206 @@
...
+
+open Polynomial
+
+/-- If `D` is a purely inseparable extension of `k` with characteristic `p`,
+  then for every element `a` of `D`, there exists a natural number `n`
+  such that `a ^ (p ^ n)` is contained in `k`. -/
+lemma exists_pow_mem_center_ofInseparable (p : ℕ) [hchar : ExpChar D p] (a : D)
+    (hinsep : ∀ x : D, IsSeparable k x → x ∈ k) : ∃ n, a ^ (p ^ n) ∈ k := by
+  have := (@isPurelyInseparable_iff_pow_mem k D _ _ _ _ p (ExpChar.center_expChar_iff.1 hchar)).1
+  have bridge : ∀ x : k, (algebraMap k D) x = x := fun _ ↦ rfl
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:77]: This `bridge` seems useless.

Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:77]: you will only need this once; so instead of adding it here, you can use as a `rw` at `pure` later on (or use the `▸`)

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 24]
```diff
@@ -0,0 +1,206 @@
...
+  have bridge' : k = (algebraMap k D).range := Subring.ext_iff.mpr <| fun x ↦
+    ⟨fun hx ↦ Set.mem_range.mpr (Exists.intro ⟨x, hx⟩ rfl),
+    fun hx ↦ Exists.casesOn hx fun y hy ↦ (bridge y ▸ hy) ▸ y.2⟩
+  have pure : IsPurelyInseparable k D := ⟨Algebra.IsAlgebraic.isIntegral, (bridge' ▸ hinsep)⟩
+  obtain ⟨n, ⟨m, hm⟩⟩ := (this pure) a
+  have := Subalgebra.range_subset (R := k) ⟨(k).toSubsemiring, by intro r; exact r.2⟩
+  exact ⟨n, Set.mem_of_subset_of_mem this <| Set.mem_range.2 ⟨m, hm⟩⟩
+
+/-- If `D` is a purely inseparable extension of `k` with characteristic `p`,
+  then for every element `a` of `D\k`, there exists a natural number `n`
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:87]:
```suggestion
  then for every element `a` of `D \ k`, there exists a natural number `n`
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 25]
```diff
@@ -0,0 +1,206 @@
...
+  simp only [pow_apply, δ_def, mulLeft_apply, mulRight_apply, Function.iterate_succ_apply']
+
+variable [Algebra.IsAlgebraic (Subring.center D) D]
+
+open Polynomial
+
+/-- If `D` is a purely inseparable extension of `k` with characteristic `p`,
+  then for every element `a` of `D`, there exists a natural number `n`
+  such that `a ^ (p ^ n)` is contained in `k`. -/
+lemma exists_pow_mem_center_ofInseparable (p : ℕ) [hchar : ExpChar D p] (a : D)
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:74]:
```suggestion
lemma exists_pow_mem_center_of_inseparable (p : ℕ) [hchar : ExpChar D p] (a : D)
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 26]
```diff
@@ -0,0 +1,206 @@
...
+    fun hx ↦ Exists.casesOn hx fun y hy ↦ (bridge y ▸ hy) ▸ y.2⟩
+  have pure : IsPurelyInseparable k D := ⟨Algebra.IsAlgebraic.isIntegral, (bridge' ▸ hinsep)⟩
+  obtain ⟨n, ⟨m, hm⟩⟩ := (this pure) a
+  have := Subalgebra.range_subset (R := k) ⟨(k).toSubsemiring, by intro r; exact r.2⟩
+  exact ⟨n, Set.mem_of_subset_of_mem this <| Set.mem_range.2 ⟨m, hm⟩⟩
+
+/-- If `D` is a purely inseparable extension of `k` with characteristic `p`,
+  then for every element `a` of `D\k`, there exists a natural number `n`
+  **greater than 0** such that `a ^ (p ^ n)` is contained in `k`. -/
+lemma exists_pow_mem_center_ofInseparable' (p : ℕ) [ExpChar D p] {a : D}
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:89]:
```suggestion
lemma exists_pow_mem_center_of_inseparable' (p : ℕ) [ExpChar D p] {a : D}
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 27]
```diff
@@ -0,0 +1,206 @@
...
+    (ha : a ∉ k) (hinsep : ∀ x : D, IsSeparable k x → x ∈ k) : ∃ n ≥ 1, a ^ (p ^ n) ∈ k := by
+  obtain ⟨n, hn⟩ := exists_pow_mem_center_ofInseparable p a hinsep
+  by_cases nzero : n = 0
+  · rw [nzero, pow_zero, pow_one] at hn
+    exact False.elim <| ha hn
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:94]:
```suggestion
    exact (ha hn).elim
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 28]
```diff
@@ -0,0 +1,206 @@
...
+  · exact ⟨n, ⟨by omega, hn⟩⟩
+
+/-- If `D` is a purely inseparable extension of `k` with characteristic `p`,
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:97]:
```suggestion
/-- If `D` is a purely inseparable extension of `k` of characteristic `p`,
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 29]
```diff
@@ -0,0 +1,206 @@
...
+  then for every element `a` of `D\k`, there exists a natural number `m`
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:98]:
```suggestion
  then for every element `a` of `D \ k`, there exists a natural number `m`
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 30]
```diff
@@ -0,0 +1,206 @@
...
+  greater than 0 such that linear map `(a * x - x * a) ^ n = 0` for
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:99]:
```suggestion
  greater than 0 such that `(a * x - x * a) ^ n = 0` (as linear maps) for
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 31]
```diff
@@ -0,0 +1,206 @@
...
+  any `n` greater than `(p ^ n)`. -/
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:100]:
```suggestion
  every `n` greater than `(p ^ m)`. -/
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 32]
```diff
@@ -0,0 +1,206 @@
...
+lemma exist_pow_eq_zero_of_le (p : ℕ) [hchar : ExpChar D p]
+    {a : D} (ha : a ∉ k) (hinsep : ∀ x : D, IsSeparable k x → x ∈ k):
+  ∃ m ≥ 1, ∀ n ≥ (p ^ m), (δ a) ^ n = 0 := by
+  obtain ⟨m, hm⟩ := exists_pow_mem_center_ofInseparable' p ha hinsep
+  refine ⟨m, ⟨hm.1, ?_⟩⟩
+  intro n hn
+  have inter : (δ a) ^ (p ^ m) = 0 := by
+    refine LinearMap.ext_iff.2 ?_
+    intro x
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:109]:
```suggestion
    ext x
```

**Review by faenuccio — COMMENTED** [review]
OK, I have added more comments and stopped short of the two proofs of JN. I will also have a look at #17147 once this PR will get merged (but please re-ping me if I forget).

File: Mathlib/Algebra/CharP/LinearMaps.lean [hunk 33]
```diff
@@ -0,0 +1,60 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Wanyi He, Huanyu Zheng
+-/
+import Mathlib.Algebra.CharP.Subring
+
+/-!
+# Characteristics of Linear Maps
+
+This file contains properties of the characteristic of the ring of linear maps.
+Characteristics of linear maps are determined by its scalar.
```
[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/Algebra/CharP/LinearMaps.lean:12]: I meant to say that for an `R`-module `M`, the characteristic of the ring of `R`-linear endomorphisms of `M` is determined by `R`, which is the "scalar" of the scalar multiplication of `M`...
But in the hindsight I think this sentence looks odd and useless, maybe we can remove it?

File: Mathlib/Algebra/CharP/LinearMaps.lean [hunk 34]
```diff
@@ -0,0 +1,60 @@
...
+
+## Main Results
+
+- `CharP_if` : For a commutative semiring `R` and a `R`-module `M`,
+  the characteristic of `R` is equal to the characteristic of `R`-linear endomorphism of `M` when
+  `M` contains an element `x` that can eliminate `r` in `r • x = 0`
```
[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/Algebra/CharP/LinearMaps.lean:18]: Sure, I'll explain more details.

File: Mathlib/Algebra/Field/Power.lean [hunk 35]
```diff
@@ -17,6 +17,12 @@ beyond those needed for the basic definition.
 
 variable {α : Type*}
 
+/-- a⁻¹ * d ^ s * a = (a⁻¹ * d * a) ^ s when a is not zero -/
+lemma conj_nonComm_Algebra [DivisionSemiring α] {s : ℕ} {a d : α} (ha : a ≠ 0) :
+    a⁻¹ * d ^ s * a = (a⁻¹ * d * a) ^ s := by
```
[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/Algebra/Field/Power.lean:22]: Sorry I didn't catch up here, wouldn't `a = 0` cause trouble when `s` is also 0? In which case, the left hand side is 0 while the right hand side is `0 ^ 0 = 1`. (btw I just noticed that mathlib set the inverse of `0` as `0` for division ring, is it a convention?)

[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/Algebra/Field/Power.lean:22]: Oh right, thanks! Concerning `0 ^ 0` you're perfectly right, due to [zero_pow_eq_one₀](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupWithZero/Basic.html#zero_pow_eq_one%E2%82%80) so please forget my comment!

For the second, I think that you can indeed call it `DivisionSemiring.conj_pow`, perhaps putting everything in the `namespace DivisionSemiring` _provided it already exists._

File: Mathlib/Algebra/CharP/LinearMaps.lean (hunk 33 above)
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/Algebra/CharP/LinearMaps.lean:12]: Or you can replace "scalar"  by "base ring".

[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/Algebra/CharP/LinearMaps.lean:12]: Good idea! implemented.

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 23 above)
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean:77]: Indeed `bridge` and `bridge'` can both be omitted, thanks!

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 36]
```diff
@@ -0,0 +1,198 @@
...
+    obtain ⟨m, -, hm2⟩ := exist_pow_eq_zero_of_le p ha hinsep
+    have exist : ∃ n > 0, ((δ a) ^ (n + 1)) b = 0 := by
+      refine ⟨(p ^ m), ⟨expChar_pow_pos D p m, by rw [hm2 (p ^ m + 1) (by omega)]; rfl⟩⟩
+    classical
+    refine ⟨Nat.find exist, ⟨(Nat.find_spec exist).1, ?_, (Nat.find_spec exist).2⟩⟩
+    set t := (Nat.find exist - 1 : ℕ) with ht
+    by_cases choice : 0 < t
+    · have := @Nat.find_min (H := exist) _ _ t ?_
+      · exact (@Nat.sub_add_cancel (Nat.find exist) 1 (by omega) ▸ ht ▸ not_and.1 this) choice
+      · exact Nat.sub_one_lt <| ne_of_gt (Nat.find_spec exist).1
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:138]:
```suggestion
    · convert (ne_eq _ _) ▸ not_and.mp (@Nat.find_min (H := exist) _ _ t (by omega)) choice
      omega
```

**Review by faenuccio — COMMENTED** [review]
Boarding my flight now, but I'll continue the review later

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 37]
```diff
@@ -0,0 +1,198 @@
...
+    · rw [not_lt, Nat.le_zero] at choice
+      have := Nat.eq_add_of_sub_eq (Nat.find_spec exist).1 ht.symm
+      simp only [gt_iff_lt, choice, Nat.succ_eq_add_one, zero_add] at this
+      rw [this, pow_one]
+      exact hb1
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:143]:
```suggestion
    · suffices h_find: Nat.find exist = 1 by
        rwa [h_find, pow_one]
      rw [not_lt, Nat.le_zero, ht, Nat.sub_eq_zero_iff_le] at choice
      linarith [(Nat.find_spec exist).1]
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 38]
```diff
@@ -0,0 +1,198 @@
...
+    -- We define `c` to be the value that we proved above to be non-zero.
+  set c := ((δ a) ^ n) b with hc_def
+  letI : Invertible c := ⟨c⁻¹, inv_mul_cancel₀ (hb.1), mul_inv_cancel₀ (hb.1)⟩
+  -- We prove that `c` is commute with `a`.
+  have hc : c * a = a * c := by
+    symm; apply eq_of_sub_eq_zero
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:149]: This `symm` shows that you set up your equations in the wrong order (both `hc` and `hb.2`): better change them and avoid this `symm` here.

**Review by faenuccio — COMMENTED** [review]
I have posted more comments for the first proof of JN: please implement them and then I'll resume the review.

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 38 above)
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean:148]: (Sorry for the delay, was dealing with some school stuff these two days)
Indeed, I've reverted ```hc```. Regarding ```hb.2```, should we change that too? Given that both left and right parts of ```hb``` are used.

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 39]
```diff
@@ -0,0 +1,198 @@
...
+    simpa only [ne_eq, sub_eq_zero] using Ne.symm ha.choose_spec
+  -- We find a maximum natural number `n` such that `(δ a) ^ n b ≠ 0`.
+  obtain ⟨n, hn, hb⟩ : ∃ n > 0, ((δ a) ^ n) b ≠ 0 ∧ ((δ a) ^ (n + 1)) b = 0 := by
+    obtain ⟨m, -, hm2⟩ := exist_pow_eq_zero_of_le p ha hinsep
+    have exist : ∃ n > 0, ((δ a) ^ (n + 1)) b = 0 := by
+      refine ⟨(p ^ m), ⟨expChar_pow_pos D p m, by rw [hm2 (p ^ m + 1) (by omega)]; rfl⟩⟩
+    classical
+    refine ⟨Nat.find exist, ⟨(Nat.find_spec exist).1, ?_, (Nat.find_spec exist).2⟩⟩
+    set t := (Nat.find exist - 1 : ℕ) with ht
+    by_cases choice : 0 < t
```
[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean:135]: True, ```choice``` is somewhat confusing...

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 40]
```diff
@@ -0,0 +1,198 @@
...
+  obtain ⟨a, ha⟩ := not_forall.mp <| mt (Subring.eq_top_iff' k).mpr H
+  have ha₀ : a ≠ 0 := fun nh ↦ nh ▸ ha <| Subring.zero_mem k
+  -- We construct another element `b` that does not commute with `a`.
+  obtain ⟨b, hb1⟩ : ∃ b : D , (δ a) b ≠ 0 := by
+    rw [Subring.mem_center_iff, not_forall] at ha
+    use ha.choose
+    show a * ha.choose - ha.choose * a ≠ 0
+    simpa only [ne_eq, sub_eq_zero] using Ne.symm ha.choose_spec
+  -- We find a maximum natural number `n` such that `(δ a) ^ n b ≠ 0`.
+  obtain ⟨n, hn, hb⟩ : ∃ n > 0, ((δ a) ^ n) b ≠ 0 ∧ ((δ a) ^ (n + 1)) b = 0 := by
```
[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean:128]: It seems Lean can't handle ```∃ 0 < n``` and it yields error ```elaboration function for 'Lean.«termSatisfies_binder_pred%__»' has not been implemented```.
Is it ok to wirte ```∃ n, (0 < n) ∧ ((δ a) ^ n) b ≠ 0 ∧ ((δ a) ^ (n + 1)) b = 0``` instead?

File: Mathlib/Algebra/CharP/LinearMaps.lean [hunk 41]
```diff
@@ -0,0 +1,60 @@
...
+
+One can also deduce similar result via `charP_of_injective_ringHom` and
+  `R → (M →ₗ[R] M) : r ↦ (fun (x : M) ↦ r • x)`. But this will require stronger condition
+  compared to `CharP_if`.
+
+-/
+
+variable {R M : Type*} [CommSemiring R] [AddCommMonoid M] [Module R M]
+
+/-- For a commutative semiring `R` and a `R`-module `M`, if `M` contains an
```
[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/Algebra/CharP/LinearMaps.lean:35]: oops, sorry I just noticed that "eliminate..." appeared twice, I've changed it to ```that can deduce `r = 0` given `r • x = 0` ``` as in the above doc.

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 42]
```diff
@@ -0,0 +1,198 @@
...
+    rw [δ, Pi.sub_apply, sub_pow_expChar_pow_of_commute p m (commute_mulLeft_right a a)]
+    rw [sub_apply, l_pow, r_pow, sub_eq_zero_of_eq]; rfl
+    suffices h : a ^ (p ^ m) ∈ k from (Subring.mem_center_iff.1 h x).symm
+    exact hm.2
+  rw [((Nat.sub_eq_iff_eq_add hn).1 rfl), pow_add, inter, mul_zero]
+
+variable (D) in
+/-- For a non-commutative finite dimensional division algebra D (with base ring being its center),
+  there exist an element `x` that is separable over its center-/
+theorem Jacobson_Noether (H : k ≠ (⊤ : Subring D)) :
```
[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean:112]: Sure, that would definitely be more explict.

By the way, apologize if I seems silly but why is the annotation talking about ```finite dimensional division algebra D``` instead of something like ```algebraic division algebra D```? Is finite equivalent to algebraic in this case?

**Comment by Yu-Misaka** [comment]
@faenuccio Greetings! Thanks for your review, and I've implemented most of the comments.
For `∃ n > 0, ...`, I changed it to `∃ n, (0 < n) ∧ ...` since `∃ 0 < n` doesn't seem to work. I also left `hb` unchanged because both parts of it are used. In addition, I changed the "finite dimensional" in JN's annotation to "algebraic" since they might not be equivalent in my view. But please tell me if I'm wrong or I mistook anything.

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 40 above)
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/FieldTheory/JacobsonNoether.lean]: Sure!

File: Mathlib/Algebra/CharP/LinearMaps.lean [hunk 43]
```diff
@@ -0,0 +1,57 @@
...
+  element `x` that can deduce `r = 0` given `r • x = 0` (finding such element usually
```
Comment (faenuccio) [inline Mathlib/Algebra/CharP/LinearMaps.lean:35]:
```suggestion
  element `x` such that `r • x = 0` implies `r = 0` (finding such element usually
```

**Comment by Yu-Misaka** [comment]
The compilation works fine, but there seems to be some git errors. I'll try merge master

**Comment by faenuccio** [comment]
> @faenuccio Greetings! Thanks for your review, and I've implemented most of the comments. For `∃ n > 0, ...`, I changed it to `∃ n, (0 < n) ∧ ...` since `∃ 0 < n` doesn't seem to work. I also left `hb` unchanged because both parts of it are used. In addition, I changed the "finite dimensional" in JN's annotation to "algebraic" since they might not be equivalent in my view. But please tell me if I'm wrong or I mistook anything.

I don't see this change, can you point out to the line where you implemented it? At any rate, every division algebra that is algebraic over its center is f.d. (see T. J. Laflίey, Commutative subalgebras of infinite dimensional algebras, Bull. London Math. Soc, 5 (1973), 312-314.) but this is not implemented in mathlb, asaik.

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 44]
```diff
@@ -0,0 +1,215 @@
...
+    rw [δ, Pi.sub_apply, sub_pow_expChar_pow_of_commute p m (commute_mulLeft_right a a)]
+    rw [sub_apply, l_pow, r_pow, sub_eq_zero_of_eq]; rfl
+    suffices h : a ^ (p ^ m) ∈ k from (Subring.mem_center_iff.1 h x).symm
+    exact hm.2
+  rw [(Nat.sub_eq_iff_eq_add hn).1 rfl, pow_add, inter, mul_zero]
+
+variable (D) in
+/-- Jacobson-Noether theorem: For a non-commutative algebraic
+  division algebra `D` (with base ring being its center `k`), then
+  there exists an element `x` of `D \ k` that is separable over `k`. -/
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:126]:
```suggestion
/-- Jacobson-Noether theorem: For a non-commutative division algebra 
  `D` that is algebraic over its center `k`, there exists an element
  `x` of `D \ k` that is separable over `k`. -/
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 45]
```diff
@@ -0,0 +1,215 @@
...
+  have c_eq : a * ((δ a) ^ (n - 1)) b - ((δ a) ^ (n - 1)) b * a = c := by
+    rw [hc_def, ← Nat.sub_add_cancel hn, ← δ_iterate_succ, δ_def]; rfl
+  have eq1 : c⁻¹ * a * ((δ a)^ (n - 1)) b - c⁻¹ * ((δ a) ^ (n - 1)) b * a = 1 := by
+    simp_rw [mul_assoc, (mul_sub_left_distrib c⁻¹ _ _).symm, c_eq, inv_mul_cancel_of_invertible]
+  -- We show that `a` commutes with `d`.
+  have deq : a * d - d * a = a := by
+    nth_rw 3 [← mul_one a]
+    rw [hd_def, ← eq1, mul_sub, mul_assoc _ _ a, sub_right_inj, hc',
+      ← mul_assoc, ← mul_assoc, ← mul_assoc]
+  -- This then derives a contradiction.
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:181]:
```suggestion
  -- This then yields a contradiction.
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 46]
```diff
@@ -0,0 +1,215 @@
...
+  rw [add_pow_expChar_pow_of_commute p r (Commute.one_left _) , one_pow,
+    ← DivisionSemiring.conj_pow ha₀, ← hr.comm, mul_assoc, inv_mul_cancel₀ ha₀, mul_one,
+    self_eq_add_left] at deq
+  exact one_ne_zero deq
+
+open Subring Algebra in
+/-- Jacobson-Noether theorem: For a non-commutative algebraic
+  division algebra `D` (with base ring being a field `L`), if the center of
+  `D` over `L` is `L`, then there exist an element `x` of `D \ L`
+  that is separable over `L`. -/
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:195]:
```suggestion
/-- Jacobson-Noether theorem: For a non-commutative division algebra `D` 
  that is algebraic over a field `L`, if the center of
  `D` coincides with `L`, then there exist an element `x` of `D \ L`
  that is separable over `L`. -/
```

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 47]
```diff
@@ -0,0 +1,215 @@
...
+theorem exists_separable_mem_of_not_central' {L D : Type*} [Field L] [DivisionRing D]
+    [Algebra L D] [Algebra.IsAlgebraic L D]
+    (hcenter : Subalgebra.center L D = ⊥) (hneq : (⊥ : Subalgebra L D) ≠ ⊤) :
+    ∃ x : D, x ∉ (⊥ : Subalgebra L D) ∧ IsSeparable L x := by
+  have ntrivial : center D ≠ ⊤ :=
+    congr(Subalgebra.toSubring $hcenter).trans_ne (Subalgebra.toSubring_injective.ne hneq)
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:201]: Can you explain (to me) this syntax with `congr`, no space before the `(` and the `$`?

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 48]
```diff
@@ -0,0 +1,215 @@
...
+  set φ := Subalgebra.equivOfEq (⊥ : Subalgebra L D) (Subalgebra.center L D) hcenter.symm
+  set equiv : L ≃+* (center D) := ((botEquiv L D).symm.trans φ).toRingEquiv
+  letI : Algebra L (center D) := equiv.toRingHom.toAlgebra
+  letI : Algebra (center D) L := equiv.symm.toRingHom.toAlgebra
+  haveI : IsScalarTower L (center D) D := .of_algebraMap_eq fun _ ↦ rfl
+  haveI : IsScalarTower (center D) L D := .of_algebraMap_eq fun x ↦ by
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:207]:
```suggestion
  let _ : Algebra L (center D) := equiv.toRingHom.toAlgebra
  let _ : Algebra (center D) L := equiv.symm.toRingHom.toAlgebra
  have _ : IsScalarTower L (center D) D := .of_algebraMap_eq fun _ ↦ rfl
  have _ : IsScalarTower (center D) L D := .of_algebraMap_eq fun x ↦ by
```
The `letI` and `haveI` tactics play a different role in mathlib4, and here are not needed.

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 49]
```diff
@@ -0,0 +1,215 @@
...
+    rw [IsScalarTower.algebraMap_apply L (center D)]
+    congr
+    exact (equiv.apply_symm_apply x).symm
+  haveI : Algebra.IsAlgebraic (center D) D := .tower_top (K := L) _
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:211]:
```suggestion
  have _ : Algebra.IsAlgebraic (center D) D := .tower_top (K := L) _
```
See above

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 50]
```diff
@@ -0,0 +1,215 @@
...
+  division algebra `D` (with base ring being a field `L`), if the center of
+  `D` over `L` is `L`, then there exist an element `x` of `D \ L`
+  that is separable over `L`. -/
+theorem exists_separable_mem_of_not_central' {L D : Type*} [Field L] [DivisionRing D]
+    [Algebra L D] [Algebra.IsAlgebraic L D]
+    (hcenter : Subalgebra.center L D = ⊥) (hneq : (⊥ : Subalgebra L D) ≠ ⊤) :
+    ∃ x : D, x ∉ (⊥ : Subalgebra L D) ∧ IsSeparable L x := by
+  have ntrivial : center D ≠ ⊤ :=
+    congr(Subalgebra.toSubring $hcenter).trans_ne (Subalgebra.toSubring_injective.ne hneq)
+  set φ := Subalgebra.equivOfEq (⊥ : Subalgebra L D) (Subalgebra.center L D) hcenter.symm
```
Comment (faenuccio) [inline Mathlib/FieldTheory/JacobsonNoether.lean:202]:
```suggestion
  set φ := Subalgebra.equivOfEq (⊥ : Subalgebra L D) (.center L D) hcenter.symm
```

**Review by faenuccio — COMMENTED** [review]
Thanks, this looks good to me! I am going to ask some maintainer to have a final look.

File: Mathlib/Algebra/CharP/LinearMaps.lean [hunk 51]
```diff
@@ -0,0 +1,56 @@
...
+
+-/
+
+variable {R M : Type*} [CommSemiring R] [AddCommMonoid M] [Module R M]
+
+/-- For a commutative semiring `R` and a `R`-module `M`, if `M` contains an
+  element `x` such that `r • x = 0` implies `r = 0` (finding such element usually
+  depends on specific `•`), then the characteristic of `R` is equal to the
+  characteristic of the `R`-linear endomorphisms of `M`.-/
+theorem CharP_if {p : ℕ} [hchar : CharP R p]
```
Comment (erdOne) [inline Mathlib/Algebra/CharP/LinearMaps.lean:39]: I'm not sure if this is the right name. Maybe `Module.charP_end` or something similar.

File: Mathlib/Algebra/Field/Power.lean (hunk 35 above)
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/Algebra/Field/Power.lean:22]: This works for all groups with zeroes right? and it should be called `conj_pow₀` in that case.

File: Mathlib/Algebra/CharP/Subring.lean [hunk 52]
```diff
@@ -33,4 +32,18 @@ instance subring (R : Type u) [Ring R] (p : ℕ) [CharP R p] (S : Subring R) : C
 instance subring' (R : Type u) [CommRing R] (p : ℕ) [CharP R p] (S : Subring R) : CharP S p :=
   CharP.subring R p S
 
+/-- The characteristic of a division ring is equal to the characteristic
+  of its center-/
+theorem center_CharP_iff {R : Type u} [DivisionRing R] {p : ℕ} :
```
Comment (erdOne) [inline Mathlib/Algebra/CharP/Subring.lean:37]: This should be called `charP_center_iff` and the direction of the iff should be flipped. Same for the one below.

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 53]
```diff
@@ -0,0 +1,215 @@
...
+* <https://ysharifi.wordpress.com/2011/09/30/the-jacobson-noether-theorem/>
+-/
+
+namespace JacobsonNoether
+
+variable {D : Type*} [DivisionRing D]
+
+open LinearMap
+
+local notation3 "k" => (Subring.center D)
```
Comment (erdOne) [inline Mathlib/FieldTheory/JacobsonNoether.lean:53]: I'm not entirely sure about this. I would think the mathliby approach is to have `[Algebra k D]` and a new typeclass called `IsCentral k D`. 

But if you have managed to restate all the results under that generality then it's fine.

**Review by mattrobball — COMMENTED** [review]
I only got to about L100 or so. Will resume tomorrow.

**Comment by erdOne** [comment]
Regarding the `large-import`: The file affected is a leaf file and the new import seems reasonable given the filename.

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 54]
```diff
@@ -0,0 +1,215 @@
...
+private def δ : D → D →ₗ[k] D := mulLeft k - mulRight k
```
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/FieldTheory/JacobsonNoether.lean:54]: I take my share of responsibility here, I suggested that it should be private because it seems to me to be somewhat specific to the context. I agree that it could/shuold live with `mulLeft` and `mulRight`, provided we find a right name (`\delta` is probably not ok, I would go for `bra`: any idea, @mattrobball ?)

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 47 above)
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean:201]: This part was done by @FR-vdash-bot as I mentioned in commit [bb0c028](https://github.com/leanprover-community/mathlib4/pull/16525/commits/bb0c02893475e03e46ef653f6886b90cc34cf7a9). So I am new to this syntax😂

From my understanding, it acts `Subalgebra.toSubring` on both parts of the equality `hcenter`. Thus `congr(Subalgebra.toSubring $hcenter)` yields `(Subalgebra.center L D).toSubring = ⊥.toSubring`, kinda like `apply_fun` in equality.

So here we can also close the target via
```
  have ntrivial : center D ≠ ⊤ := by
    apply_fun Subalgebra.toSubring at hcenter
    exact hcenter.trans_ne (Subalgebra.toSubring_injective.ne hneq)
```
or
```
  have ntrivial : center D ≠ ⊤ := by
    apply congrArg Subalgebra.toSubring at hcenter
    exact hcenter.trans_ne (Subalgebra.toSubring_injective.ne hneq)
```
Though I don't quite understand the 
>This is able to make use of the expected type, for example `(congr(_ + $h) : 1 + _ = _)` with `h : x = y` gives `1 + x = 1 + y`.


in its documentation.

File: Mathlib/Algebra/CharP/LinearMaps.lean (hunk 51 above)
Comment (Yu-Misaka) [reply Mathlib/Algebra/CharP/LinearMaps.lean:39]: Indeed that looks better, implemented, thanks!

[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/Algebra/CharP/LinearMaps.lean:39]: True, I'm thinking of namespace "Module" as @erdOne suggested changing it to `Module.charP_end`

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 53 above)
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean:53]: Good point, I thought you might mean `exists_separable_mem_of_not_central'`, but `Algebra.IsCentral` seems more general than the `hcenter` in it... I'll try to generalize that a bit. Thanks!

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 55]
```diff
@@ -0,0 +1,215 @@
...
+
+private lemma l_pow (a : D) (n : ℕ) : ∀ x : D, ((mulLeft k a) ^ n) x = (a ^ n) * x := by
+  intro x
+  rw [pow_apply]
+  induction n with
+  | zero => rw [Function.iterate_zero, id_eq, pow_zero, one_mul]
+  | succ _ h => rw [Function.iterate_succ', Function.comp_apply, h,
+    pow_succ', mul_assoc, mulLeft_apply]
+
+private lemma r_pow (a : D) (n : ℕ) : ∀ x : D, ((mulRight k a) ^ n) x = x * (a ^ n) := by
```
[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean:66]: Indeed, and both `r_pow` and `l_pow` are used only once so I've removed them.

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 56]
```diff
@@ -0,0 +1,215 @@
...
+variable {D : Type*} [DivisionRing D]
+
+open LinearMap
+
+local notation3 "k" => (Subring.center D)
+private def δ : D → D →ₗ[k] D := mulLeft k - mulRight k
+
+private lemma δ_def (a x : D) : δ a x = mulLeft k a x - mulRight k a x := rfl
+
+private lemma l_pow (a : D) (n : ℕ) : ∀ x : D, ((mulLeft k a) ^ n) x = (a ^ n) * x := by
```
[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean:58]: They are indeed unnecessary. Thanks!

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 53 above)
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean:54]: Thanks! I've switched `exists_separable_mem_of_not_central'` to `IsCentral`.

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 54 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/FieldTheory/JacobsonNoether.lean:55]: It looks like the adjoint action of gl(V) on itself.

[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/FieldTheory/JacobsonNoether.lean:55]: Yes, this is what motivated me to call it `bra` for bracket. But perhaps @Yu-Misaka can try to use [LieDerivation.ad](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Lie/Derivation/AdjointAction.html#LieDerivation.ad) instead?

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/FieldTheory/JacobsonNoether.lean:55]: Do we use `𝖆𝖉` currently?

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/FieldTheory/JacobsonNoether.lean:55]: Oh! If we have something already, we should try to plug into that as much as possible.

[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean]: Thanks! @faenuccio @mattrobball I've replaced all `δ` with `LieAlgebra.ad`. However I didn't manage to find existing lemma to replace `ad_iterate_succ` (originally private lemma `δ_iterate_succ`), so I placed it down the main theorem as a `have`.

[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/FieldTheory/JacobsonNoether.lean]: Great, I believe the situation of this PR is very good.

File: Mathlib/Algebra/CharP/LinearMaps.lean (hunk 51 above)
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Algebra/CharP/LinearMaps.lean]: Did we settle a new name for this?

File: Mathlib/Algebra/CharP/Subring.lean (hunk 52 above)
Comment (mattrobball) [reply Mathlib/Algebra/CharP/Subring.lean]: I think we can drop the double `charP` and also below

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 57]
```diff
@@ -0,0 +1,198 @@
...
+  obtain ⟨r, hr⟩ := exists_pow_mem_center_of_inseparable p d insep
+  apply_fun (· ^ (p ^ r)) at deq
+  rw [add_pow_expChar_pow_of_commute p r (Commute.one_left _) , one_pow,
+    conj_pow₀ ha₀, ← hr.comm, mul_assoc, inv_mul_cancel₀ ha₀, mul_one,
+    self_eq_add_left] at deq
+  exact one_ne_zero deq
+
+open Subring Algebra in
+/-- Jacobson-Noether theorem: For a non-commutative division algebra `D`
+  that is algebraic over a field `L`, if the center of
```
Comment (mattrobball) [inline Mathlib/FieldTheory/JacobsonNoether.lean:175]: Is this really saying that `L` is the center? It seems more general a priori to me.

File: Mathlib/FieldTheory/JacobsonNoether.lean [hunk 58]
```diff
@@ -0,0 +1,198 @@
...
+      Subring.mem_center_iff.1 hm.2 x]
+    exact sub_eq_zero_of_eq rfl
+  rw [(Nat.sub_eq_iff_eq_add hn).1 rfl, Function.iterate_add, inter, Pi.comp_zero,
+    iterate_map_zero, Function.const_zero]
+
+variable (D) in
+/-- Jacobson-Noether theorem: For a non-commutative division algebra
+  `D` that is algebraic over its center `k`, there exists an element
+  `x` of `D \ k` that is separable over `k`. -/
+theorem exists_separable_mem_of_not_central (H : k ≠ (⊤ : Subring D)) :
```
Comment (mattrobball) [inline Mathlib/FieldTheory/JacobsonNoether.lean:104]: I would think `of_not_comm` is more fitting. Similarly below, the assumptions say something more than a prime.

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 57 above)
Comment (faenuccio) [reply Mathlib/FieldTheory/JacobsonNoether.lean:175]: I think this is precisely [Algebra.IsCentral](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Central/Defs.html#Algebra.IsCentral): it says that the center of `D` coincides with the image of `L` in `D`.

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 54 above)
[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean]: Sorry, I just noticed that `ad_iterate_succ` can be deduced directly from `Function.iterate_succ_apply'`...

File: Mathlib/Algebra/GroupWithZero/Conj.lean [hunk 59]
```diff
@@ -20,3 +20,7 @@ variable {α : Type*} [GroupWithZero α] {a b : α}
   rw [IsConj, Units.exists_iff_ne_zero (p := (SemiconjBy · a b))]
   congr! 2 with c
   exact and_congr_right (mul_inv_eq_iff_eq_mul₀ · |>.symm)
+
+lemma conj_pow₀ {s : ℕ} {a d : α} (ha : a ≠ 0) : (a⁻¹ * d * a) ^ s = a⁻¹ * d ^ s * a :=
```
[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/Algebra/GroupWithZero/Conj.lean:26]: Indeed, I've placed them under namespace `GroupWithZero` for now (I'm not sure if this is the proper name though)

File: Mathlib/Algebra/CharP/LinearMaps.lean (hunk 51 above)
[the remark this answers is not in the document]
Comment (Yu-Misaka) [reply Mathlib/Algebra/CharP/LinearMaps.lean]: Yes, I've already placed it under namespace `Module` and renamed to `charP_end`.

File: Mathlib/FieldTheory/JacobsonNoether.lean (hunk 57 above)
Comment (mattrobball) [reply Mathlib/FieldTheory/JacobsonNoether.lean:172]: But now I am confused by the naming here. I would think `exists_separable_of_not_top` or `exists_separable_of_not_comm` We really need to train a model to generate declaration names.

Comment (faenuccio) [reply Mathlib/FieldTheory/JacobsonNoether.lean:172]: I see what you mean, but mathematically we would simply identify `L` with its image, so saying that an element is not in `top` really means that it is not central and I feel that `not_central` (or `not_comm`, see below) conveys more mathematical meening. Concerning `not_comm`, I have the slight feeling that this would refer to a couple of elements commuting with each other rather than an element commuting with everything, but I agree this is not very sound.

Comment (mattrobball) [reply Mathlib/FieldTheory/JacobsonNoether.lean:172]: It seems strange to me that we have `IsCentral` as a parameter and we use `not_central` in the name. Also, what is `mem` doing? I couldn't quite parse it. It would nice to have some AI trained to generate these names from the declaration itself.

Comment (mattrobball) [reply Mathlib/FieldTheory/JacobsonNoether.lean:172]: Either way 

bors d=faenuccio

Comment (faenuccio) [reply Mathlib/FieldTheory/JacobsonNoether.lean:172]: @Yu-Misaka OK, we're at the end. Following Matt's advice, I would like that your rename the two main theorems by
1. Removing "mem" (it applies to conclusion of the form "something belongs to...", which is not the case)
2. Changing `central` to `isCentral`.

Then I will merge it.

Comment (faenuccio) [reply Mathlib/FieldTheory/JacobsonNoether.lean:172]: Thank you so much for your work!

Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean:172]: Thank you for your help! It's been a pleasure working with you!

I've implemented the change;)

Comment (mattrobball) [reply Mathlib/FieldTheory/JacobsonNoether.lean:172]: Oh! I realized I was confused by the `of` since the **conclusion** is that you have a separable non central element.

Comment (mattrobball) [reply Mathlib/FieldTheory/JacobsonNoether.lean:172]: Right?

Comment (faenuccio) [reply Mathlib/FieldTheory/JacobsonNoether.lean:172]: Yep!

Comment (Yu-Misaka) [reply Mathlib/FieldTheory/JacobsonNoether.lean:172]: Sure, no problem;-)

**Comment by faenuccio** [comment]
Thanks!
